US07462630B2
Synthesis of ethyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate
375 mg (1.00 mmol) of 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl-2-oxoethanamine hydrochloride was dissolved in 3 ml of dichloromethane. 303 mg (3.00 mmol) of triethylamine was added to the obtained solution. Then a solution of 130 mg (1.20 mmol) of ethyl chloroformate in 3 ml of dichloromethane was slowly added to the reaction mixture. After stirring overnight, saturated aqueous sodium hydrogencarbonate solution was added thereto. After extracting with ethyl acetate twice followed by drying under anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The residue was roughly purified by the silica gel chromatography (dichloromethane:methanol=98:2) and then purified by the silica gel chromatography (hexane:ethyl acetate=1:2) to obtain the title compound.

reactant | 4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl-2-oxoethanamine hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(C=O)N
reactant | triethylamine | 3.00 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.20 mmol, 130 mg | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(OCC)=O)=O | C25H26N2O3
